US07244730B2
(Step 2) (5-Ethoxy-4,6-dimethyl-3-pyridyl)methyl azide
Diphenylphosphoryl azide (0.59 ml, 2.7 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.41 ml, 2.7 mmol) were added dropwise in that order to a solution of (5-ethoxy-4,6-dimethyl-3-pyridyl)methanol (0.415 g, 2.29 mmol) in toluene (5 ml) at room temperature, and the mixture was stirred for 16 hours. After confirming completion of the reaction by thin layer chromatography, the mixture was poured into water and extraction was performed with ethyl acetate. The extract was washed with saturated aqueous NaCl and dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (447 mg, 95%) as a colorless oil.

reactant | Diphenylphosphoryl azide | 2.7 mmol, 0.59 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.7 mmol, 0.41 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | (5-ethoxy-4,6-dimethyl-3-pyridyl)methanol | 2.29 mmol, 0.415 g | C(C)OC=1C(=C(C=NC1C)CO)C | C10H15NO2
reactant | water | O | H2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5-Ethoxy-4,6-dimethyl-3-pyridyl)methyl azide | 447 mg, 95% | C(C)OC=1C(=C(C=NC1C)CN=[N+]=[N-])C | C10H14N4O
